US07888351B2
A) Chlorosulfonyl-acetic acid methyl ester
To chlorosulfonyl chloride (3.34 g, 17.9 mmol) in diethyl ether (30 mL) is added at 0° C. methanol (800 μL, 19.7 mmol). The resulting mixture is stirred at 0° C. during 1 h and the solvent is evaporated to give the title compound.

reactant | chlorosulfonyl chloride | 17.9 mmol, 3.34 g | ClS(=O)(=O)Cl | Cl2O2S
reactant | methanol | 19.7 mmol, 800 μL | CO | CH4O
reactant | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | Chlorosulfonyl-acetic acid methyl ester | COC(CS(=O)(=O)Cl)=O | C3H5ClO4S
